Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Codeine / Peanut / Rapamune / sodium bicarbonate
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
thoracentesis ___
 
History of Present Illness:
___ hx Stage IV ovarian Ca dx in ___ with initiation 
of chemotherapy ___, ESRD s/p live donor transplant 
(failing) on HD MWF, CAD s/p MI w/DES, valvular heart dz, HTN, 
HLD, p/w dyspnea. 

To the ED, she reported 2d progressively worsening dyspnea. She 
underwent HD on ___ as scheduled w/o improvement in dyspnea. 

In the ED, initial VS were: 99.7 125 122/72 25 93% RA.
 
ED physical exam was recorded as: cachetic unwell appearing lady 
with hx of ESRD on HD and ovarian ca, currently undergoing chemo 
presents with c/o shortness of breath. feels as if cant get 
enough air in, +crackles 

ED labs were notable for: WBC 12.6 (down to 9.8 on rpt). H/H 
7.8/25.4 (stable on rpt). proBNP 52,368. Na 132/Cl 93, similar 
on rpt, but with BUN/Cr up to ___. Trop 0.28, down to 0.22 on 
rpt with CK-MB flat.  Lactate 1.9, flu negative. UA with Mod 
Leuk, WBC 29. INR 1.6. 

CXR showed:
IMPRESSION:    
Large right and small to moderate left pleural effusions with 
overlying atelectasis.  Bilateral mid lung opacities could be 
due to atelectasis and pulmonary edema/ vascular congestion, 
although underlying infection is not excluded in the appropriate 
clinical setting. Mild to moderate pulmonary edema. 

___ showed:
IMPRESSION:  
No evidence of deep venous thrombosis in the left lower 
extremity veins. 
Calcified atherosclerosis noted in the arteries, but not well 
assessed on this study. 

Lung Scan showed: IMPRESSION: Low likelihood of pulmonary 
embolism. 
  
EKG showed: ECG with TWI in aVL and V1-V3 

Patient was seen by Cardiology (excerpt):
"...SOB likely in setting of volume overload given large 
effusions. NSTEMI likely type II in setting of ESRD and fluid 
overload. There are ECG changes (though no recent uploaded 
priors, last ECGs were i/s/o hyperkalemia) but she does not have 
her typical anginal symptoms which is reassuring.
 Recommendations:
 - serial troponin, CK-MB, and ECGs
 - reasonable to continue heparin gtt while awaiting CK-MB
 - continue home aspirin
 - agree with diuresis if able
 - admit to oncology vs. medicine for treatment of recurrent 
ascites and pleural effusion in setting of ovarian ca 
(previously exudative)
 - can consider TTE if CK-MB elevated or dynamic ECG changes"

Patient was seen by Renal (excerpt):
"- Has no acute HD needs for electrolytes or volume but can 
trial some additional UF/challenge dry weight tomorrow with HD
 - Suspect SOB is driven by pleural effusions, likely 
malignancy, which will not be removed by HD and she is at her 
dry weight. Has some pitting edema in legs (albumin is 2.6)
 - Would consider thoracentesis and parecentesis to relieve 
dyspnea but agree with Lung scan to rule out PE given acute 
onset and increased risk of thrombus in setting of cancer
 - Agree with trending Trops and serial EKGs"
Also added that tacrolimus should be continued. 

Patient was given:
___ 21:14 IV Furosemide 80 mg 
___ 21:43 PO Aspirin 243 mg 
___ 22:12 IV Heparin 2200 UNIT
___ 22:12 IV Heparin  Started 450  
___ 22:51 IV CefePIME 2 g 
___ 01:51 PO/NG LORazepam .5 mg 
___ 05:43 IV Heparin  Restarted 250 units/hr 
___ 08:32 PO/NG OxyCODONE (Immediate Release) 5 mg 
___ 09:00 PO sevelamer CARBONATE 
___ 09:08 IV CefePIME (2 g ordered)
___ 09:13 PO/NG Ranitidine 150 mg 
___ 09:13 PO Omeprazole 20 mg 
___ 09:13 PO/NG PredniSONE 4 mg 
___ 09:13 PO Tacrolimus .5 mg 
___ 09:16 PO/NG Aspirin 81 mg 
___ 12:00 PO sevelamer CARBONATE
___ 12:06 IV Vancomycin 
___ 12:53 IV Heparin  ___ Stopped (14h ___  
___ 13:10 IV Vancomycin 1 mg 
___ 16:48 PO/NG Acetaminophen 500 mg 
___ 16:48 PO/NG OxyCODONE (Immediate Release) 5 mg

Transfer VS were: 98.5 112 129/79 19 98% Nasal Cannula. 

When seen on the floor, patient is feeling better though still 
short of breath. She essentially endorses the story above, that 
she was in her usual state of health, no sick contacts, no 
shortened HD sessions, when she started to feel weak and have 
shortness of breath on ___ night. This became progressively 
worse, and HD on ___ did not make her feel better. She did 
call the ___ clinic who referred her in for evaluation. She 
endorses generalized weakness. She has chronic constipation and 
decreased appetite d/t early satiety, the latter subacute and 
unrelated to SOB. She denies lightheadedness, dizziness, fevers, 
chills, cough, congestion, chest pain, abdominal pain, does 
endorse abdominal distension (better since recent paracentesis, 
though she feels her abdomen is slowly getting larger again), 
urinary frequency or pain with urination (still makes small 
amounts of urine), diarrhea, focal weakness. 
 
Past Medical History:
- Stage IV Ovarian Ca
- ESRD s/p live-related donor transplant ___ now Stage IV
CKD; baseline Cr 2.5
- CAD (inferior STEMI s/p ___ 2 to mid-RCA ___ s/p stent 
to
proximal LAD ___
- valvular heart disease; last Echocardiogram ___, LVEF
62%, 2+MR, 1+TR, mild PA HTN. MR increased vs ___.
- hx of a. fib with RVR during hospitalization for right 
shoulder
septic arthritis ___ (post-infectious, resolved)
- HTN
- dyslipidemia
- anemia
- osteoporosis
- proteinuria
- GERD
PSH:
- c-section 
- tubal ligation 
- abdominal myomectomy
- kidney transplant
- Left wrist graft surgery
- cardiac stent 
- left breast biopsy
 
 
Social History:
___
Family History:
Strong family history of cancer.
- MGM- BC
- M- ovarian/uterine( diagnosed in early ___ x2
- 2 sisters- BC - alive - both tested BRCA negative
- M aunt- BC at age ___
- Brother- colon cancer
 
Physical Exam:
PHYSICAL EXAM:
Vitals: 97.6 PO, 110 / 60, 88,18, 96 RA
Gen: Pleasant, cachectic, appearing older than stated age, no 
acute distress, breathing comfortably, speaking in full 
sentences 
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP, MMM
CV: RRR, no r/g/m
Chest: diffuse crackles bilaterally, diminished at the bases, no 
wheeze
GI: +BS, soft, nontender
MSK: L forearm prior fistula at the wrist. ___ edema into the 
thighs.
Skin: No jaundice.
Neuro: AAOx3. No facial droop. ___ strength all extremities 
Psych: calm mood, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 07:41PM BLOOD WBC-12.6* RBC-2.86* Hgb-7.8* Hct-25.4* 
MCV-89 MCH-27.3 MCHC-30.7* RDW-17.3* RDWSD-53.1* Plt ___
___ 07:41PM BLOOD ___ PTT-25.7 ___
___ 07:41PM BLOOD Glucose-85 UreaN-17 Creat-1.1 Na-132* 
K-4.2 Cl-93* HCO3-23 AnGap-20
___ 07:41PM BLOOD ALT-20 AST-75* CK(CPK)-74 AlkPhos-124* 
TotBili-0.3
___ 07:41PM BLOOD Albumin-2.6* Calcium-8.7 Phos-3.4 Mg-1.7

___ PLEURAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY; ANAEROBIC CULTURE-PRELIMINARY; FUNGAL 
CULTURE-PRELIMINARY; ACID FAST SMEAR-PRELIMINARY; ACID FAST 
CULTURE-PRELIMINARY INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
1. Extensive ground-glass pulmonary consolidation, primarily 
affecting the 
right lower lobe and right middle lobe consistent with 
multifocal pneumonia.  
A more dense area of consolidation is seen within the left lower 
lobe, also 
likely a focus of infection. 
2. Mild to moderate background emphysema. 
3. Bulky hilar lymph nodes may be reactive.  Evaluation for 
lymphadenopathy is 
somewhat limited in the absence of intravenous contrast.  
Recommend follow-up 
after treatment with CT for further evaluation. 

echo

The left atrium is normal in size. Color-flow imaging of the 
interatrial septum raises the suspicion of an atrial septal 
defect, but this could not be confirmed on the basis of this 
study. Left ventricular wall thicknesses and cavity size are 
normal. Overall left ventricular systolic function is moderately 
depressed (LVEF= ___. The right ventricular cavity is mildly 
dilated with mild global free wall hypokinesis. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild to moderate (___) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a small pericardial effusion. 

 Compared with the prior study (images reviewed) of ___, 
the LV function has decreased substantially.  
 
Brief Hospital Course:
___ hx Stage IV ovarian Ca dx in ___ with initiation 
of chemotherapy ___, ESRD s/p failed live donor transplant 
on HD, CAD s/p MI w/DES, valvular heart dz, HTN, HLD, p/w 
dyspnea. 

# Dyspnea
# Pulmonary Edema and Malignant Pleural Effusions
# Possible PNA
Pt had L thoracentesis with IP on ___ with cytology showing 
malignancy.  S/p repeat R ___ with IP on ___ with removal 
of 1.3L, cytology re-sent and is pending.  ___ CXR shows 
improved R pleural effusion and worsening L pleural effusions.  
CT chest on ___ showed multifocal infiltrates.  She was 
treated with Vancomycin (renal dosed)/Cefepime for possible 
multifocal pna. MRSA screen was negative. Antibiotics were 
narrowed to levofloxacin PO to complete a 7-day course. CXR on 
day of discharge showed persistent but stable bilateral 
effusions. On day of discharge, pt had no c/o SOB or DOE. Her 
vital signs were stable and she was saturating well on RA. In 
keeping with patient's wishes, she was discharged to home today 
given her clinical stability.

# Volume Overload
# ESRD on HD
Got 80mg IV Lasix and another 100mg IV Lasix on admission 
(unclear timing of I/O's but not much is tracked). She was 
dialyzed on ___ and ___ with > 1 liter removed via UF each 
run.

#Acute systolic CHF
# Demand Ischemia
# Hx CAD with MI s/p PCI/DES
She had elevated troponin and BNP on admission.  ECHO showed new 
finding of global reduced LV and RV function with EF 30%.  
Cardiology consulted and felt that she may have had a silent MI 
that contributed to new diagnosis of CHF.  We started metoprolol 
succinate and lisinopril prior to discharge.

# Anemia
H/H c/w recent baseline.

# Stage IV Ovarian Ca
Pt's Oncologist, ___ following.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Ranitidine 150 mg PO DAILY 
3. Tacrolimus 0.5 mg PO Q24H 
4. Nephrocaps 1 CAP PO DAILY 
5. Simethicone 40-80 mg PO QID:PRN bloating 
6. sevelamer CARBONATE 800 mg PO TID W/MEALS 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Atorvastatin 80 mg PO QPM 
10. PredniSONE 4 mg PO DAILY 
11. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q48H 
take one dose on ___ to complete your antibiotic regimen 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth once 
Disp #*1 Tablet Refills:*0 
2.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  Nephrocaps 1 CAP PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN  
10.  PredniSONE 4 mg PO DAILY  
11.  Ranitidine 150 mg PO DAILY  
12.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
13.  Simethicone 40-80 mg PO QID:PRN bloating  
14.  Tacrolimus 0.5 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pneumonia
ovarian cancer
pleural effusion
acute systolic CHF
cad

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized for shortness of breath and found to have 
pneumonia and pleural effusions (fluid around the lung). You 
were treated for pneumonia with antibiotics and had the fluid 
around the right side of your lung drained.  Testing of your 
heart showed reduced function we term congestive heart failure. 
You were seen by the cardiologist who recommended you be treated 
with a combination of medicines to manage symptoms of congestive 
heart failure that can lead to back up of fluid into the lungs. 

 
Followup Instructions:
___